US04510136
Preparation of bis(4-Fluorophenyl)methyl[1-(1H-1,2,4-triazol-1-yl)ethyl]silane
A mixture of 1.78 g (37 mmol) of 50% sodium hydride, 30 ml of dimethylformamide, and 2.56 g (37 mmol) of 1H-1,2,4-triazole was stirred at 50° for one hour, and a solution of 10 g (33.7 mmol) of a 1:1 mixture of bis(4-fluorophenyl)-1-chloroethyl(methyl)silane and bis(4-fluorophenyl)-2-chloroethyl(methyl)silane in 10 ml of dimethylformamide was added. The mixture was stirred at 50° for 64 hours, cooled, diluted with water, and extracted with ether. The ether extracts were washed with water and brine, dried over sodium sulfate, and evaporated to leave a viscous oil. Chromatography over silica gel eluting with dichloromethane followed by 3% methanol in dichloromethane provided 1.37 g (12%) of the title compound as a viscous oil: nmr (CDCl3) 0.7 (3H, s), 1.6 (3H, d, J=7 Hz), 4.5 (1H, q, J=7 Hz), 6.9-7.7 (8H, m), 7.9 (1H, s), and 8.0 (1H, s).

reactant | sodium hydride | 37 mmol, 1.78 g | [H-].[Na+]
reactant | 1H-1,2,4-triazole | 37 mmol, 2.56 g | N1N=CN=C1 | C2H3N3
reactant | bis(4-fluorophenyl)-1-chloroethyl(methyl)silane | FC1=CC=C(C=C1)[Si](C)(C(C)Cl)C1=CC=C(C=C1)F | C15H15ClF2Si
reactant | bis(4-fluorophenyl)-2-chloroethyl(methyl)silane | FC1=CC=C(C=C1)[Si](C)(CCCl)C1=CC=C(C=C1)F | C15H15ClF2Si
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | bis(4-Fluorophenyl)methyl[1-(1H-1,2,4-triazol-1-yl)ethyl]silane | 1.37 g, 12% | FC1=CC=C(C=C1)[Si](C(C)N1N=CN=C1)(C)C1=CC=C(C=C1)F | C17H17F2N3Si
